US07429609B2
N′-Methyl-hydrazine carboxylic acid benzyl ester hydrochloride
17.7 g of N′-benzyloxycarbonyl-N-methyl-hydrazine carboxylic acid tert-butyl ester was dissolved in 20 mL of ethyl acetate, added with 70 mL 4N hydrogen chloride-ethyl acetate solution, and stirred at room temperature for 4 hours. The solvent was evaporated, and the resulting crystals were washed with diethyl ether and filtered, to afford 11.4 g of the title compound as white crystals.

reactant | N′-benzyloxycarbonyl-N-methyl-hydrazine carboxylic acid tert-butyl ester | 17.7 g | C(C)(C)(C)OC(=O)N(NC(=O)OCC1=CC=CC=C1)C | C14H20N2O4
reactant | hydrogen chloride-ethyl acetate | 4N, 70 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N′-Methyl-hydrazine carboxylic acid benzyl ester hydrochloride | 11.4 g | Cl.C(C1=CC=CC=C1)OC(=O)NNC | InChI=1S/C9H12N2O2.ClH/c1-10-11-9(12)13-7-8-5-3-2-4-6-8;/h2-6,10H,7H2,1H3,(H,11,12);1H
